US07268231B2
To a solution of 2-methyl-1,5-naphthyridine (216.0 mg, 1.5 mmol) in 1,4-dioxane (5 mL) was added SeO2 (183.0 mg, 1.65 mmol) and the reaction mixture was refluxed for 0.5 hr, when the TLC showed no starting material left, then cooled to room temperature and filtered through celite. The solvent was removed under reduced pressure and the residue was purified by Biotage column (AcOEt: nHex=3:1) to give [1,5]naphthyridine-2-carbaldehyde as a white solid (142.3 mg, 60.0). LR-ES m/e 159 (MH+).

reactant | 2-methyl-1,5-naphthyridine | 1.5 mmol, 216.0 mg | CC1=NC2=CC=CN=C2C=C1 | C9H8N2
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | [1,5]naphthyridine-2-carbaldehyde | N1=C(C=CC2=NC=CC=C12)C=O | C9H6N2O
